US04343811
2-Methyl-2-[2-Methyl-1-propyl-3-(4-pyridyl)-1H-indole-5-yloxy]-propanoic acid morpholide
The above compound was prepared from 2-methyl-2-[2-methyl-1-propyl-3-(4-pyridyl)-1H-indole-5-yloxy]propanoic acid hydrochloride and morpholine using a procedure analogous to that of Example 128.

reactant | 2-methyl-2-[2-methyl-1-propyl-3-(4-pyridyl)-1H-indole-5-yloxy]propanoic acid hydrochloride | Cl.CC(C(=O)O)(C)OC=1C=C2C(=C(N(C2=CC1)CCC)C)C1=CC=NC=C1
reactant | morpholine | N1CCOCC1 | C4H9NO
product | 2-Methyl-2-[2-Methyl-1-propyl-3-(4-pyridyl)-1H-indole-5-yloxy]-propanoic acid morpholide | CC(C(=O)N1CCOCC1)(C)OC=1C=C2C(=C(N(C2=CC1)CCC)C)C1=CC=NC=C1 | C25H31N3O3
